Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___
 
Chief Complaint:
Generalized weakness 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ w/ CAD (s/p DES and CABG in ___, AF (apixaban), HFpEF, 
pHTN on 3L O2, IDDM, recent hospitalization for CHF/cellulitis, 
presenting with leg weakness described as
"knee buckling" since yesterday found to have possible UTI and 
multiple electrolyte derrangements concerning for overdiuresis.
 
Past Medical History:
 
PAST MEDICAL HISTORY:  
CAD s/p CABG and multiple ___
HFpEF (LVEF = 53% in ___
Hypertension
T2DM
Hyperlipidemia
Peripheral Neuropathy  
h/o herniated disk (receives monthly injections) 
Macular degeneration of L eye 
Cholecystectomy
Venous Stasis
Dry Skin
Hemorrhoids
Bone spur on right foot
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
___ 2339 Temp: 97.7 PO BP: 136/84 HR: 75 RR: 18 O2
sat: 96% O2 delivery: 3L NC  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
CV: irregularly irregular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
NEURO: Alert, oriented, face symmetric,
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 01:58PM URINE  HOURS-RANDOM
___ 01:58PM URINE  UHOLD-HOLD
___ 01:58PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*
___ 01:58PM URINE  RBC-1 WBC-30* BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 01:58PM URINE  HYALINE-8*
___ 01:58PM URINE  MUCOUS-RARE*
___ 01:23PM   GLUCOSE-217* UREA N-79* CREAT-1.5* 
SODIUM-130* POTASSIUM-3.0* CHLORIDE-76* TOTAL CO2-38* ANION 
GAP-16
___ 01:23PM   cTropnT-0.01
___ 01:23PM   proBNP-2156*
___ 01:23PM   WBC-12.4* RBC-4.31 HGB-13.1 HCT-38.0 MCV-88 
MCH-30.4 MCHC-34.5 RDW-14.0 RDWSD-45.0
___ 01:23PM   NEUTS-79.3* LYMPHS-12.1* MONOS-7.0 EOS-0.7* 
BASOS-0.4 IM ___ AbsNeut-9.82* AbsLymp-1.50 AbsMono-0.87* 
AbsEos-0.09 AbsBaso-0.05
___ 01:23PM   PLT COUNT-___ w/ CAD (s/p DES and CABG in ___, AF (apixaban), HFpEF, 
pHTN on 3L O2, IDDM, recent hospitalization for CHF/cellulitis, 
presenting with leg weakness described as "knee buckling" since 
yesterday found to have possible UTI and multiple electrolyte 
derrangements concerning for overdiuresis. During her 
hospitalization she was found to have severe hpokameia which has 
been replaced and ___ in addition to metabolic alkalosis most 
likely in the setting of contraction alkalosis thus she  was 
hydrated which improved her kidney function. Her Torsamid and 
Spirnolacton has been stopped, and she was advised to follow up 
with her PCP within one week after discharge to decide on 
weather to maintain  her toramid or Dc it. Her UA was suggestive 
for UTi which she has been treated with Ceftriaxon for 4 days 
and stopped as the Culture was negative. Patient discharged to 
Rehab de to weakness and inability to ambulate in dependently. 
She understand the instruction and agree with the plan 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
3. Apixaban 5 mg PO BID 
4. Artificial Tears 1 DROP BOTH EYES TID 
5. Atorvastatin 80 mg PO QPM 
6. Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line 
7. Dibucaine 1 % topical TID:PRN hemorrhoids 
8. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
9. Gabapentin 300 mg PO BID 
10. GuaiFENesin 10 mL PO Q6H:PRN cough 
11. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate 
12. Hydrocortisone (Rectal) 2.5% Cream ___ID 
13. Metoprolol Succinate XL 12.5 mg PO DAILY 
14. Omeprazole 20 mg PO DAILY 
15. Ondansetron 4 mg PO Q8H:PRN nausea 
16. Senna 8.6 mg PO BID:PRN Constipation - Second Line 
17. Loratadine 10 mg PO DAILY 
18. Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID 
19. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
20. Polyethylene Glycol 17 g PO DAILY 
21. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
22. SITagliptin 100 mg oral QHS 
23. Lidocaine 5% Patch 1 PTCH TD QAM foot pain 
24. Torsemide 50 mg PO DAILY 
25. Lantus U-100 Insulin (insulin glargine) 25 units 
subcutaneous DAILY 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath  
2.  Artificial Tears 1 DROP BOTH EYES TID  
3.  Atorvastatin 80 mg PO QPM  
4.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
5.  Dibucaine 1 % topical TID:PRN hemorrhoids  
6.  Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID  
7.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

8.  Gabapentin 300 mg PO BID  
9.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate  
10.  Hydrocortisone (Rectal) 2.5% Cream ___ID  
11.  Lantus U-100 Insulin (insulin glargine) 25 units 
subcutaneous DAILY  
12.  Lidocaine 5% Patch 1 PTCH TD QAM foot pain  
13.  Loratadine 10 mg PO DAILY  
14.  Metoprolol Succinate XL 12.5 mg PO DAILY  
15.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
16.  Omeprazole 20 mg PO DAILY  
17.  Polyethylene Glycol 17 g PO DAILY  
18.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
19.  SITagliptin 100 mg oral QHS  
20.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
___ due to overdurieses 
severe hypokalemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___